**************************************************************
* Xyce netlist for testing the xdm warning messages that
* result from device names that are unique in Spectre, since
* Spectre is case-senstive, but not unique in Xyce since
* Xyce is not case-sensitive.  Note that the xdm-translated 
* Xyce netlist will not run.  It will exit with an error
* because of "duplicate device names".
*
* See SRN Bug 2017 and the associated Spectre netlist for 
* more details.
* 
***********************************************************

*Analysis directives: 
.TRAN  0 1ms 0
.PRINT TRAN V(net1) V(net4) 

* This netlist has resistor names that will actually work in
* Xyce.  RR0 and RR0a will not conflict.  The Spectre netlist
* has R0 and r0, which xdm turns into RR0 and Rr0.  Since
* Xyce is not case-sensitive, those names int the xdm-translated
* netlist are "identical" to Xyce.
RR0        net1 net4  1K 
RR0a       net4 0 1K 
VV1        net1 0 SIN(0 1 1KHz 0 0 0)

.END

